US06423704B1
Stir a mixture of 2-methoxy-5-(2-methoxy-ethoxy)-benzoic acid methyl ester (0.87 g, 3.6 mmol), methanol (20 mL) and 1N NaOH solution (20 mL) for two hours at room temperature. Acidify the reaction with 1N HCl and extract with dichloromethane. Dry (MgSO4) the organic phase, filter and concentrate the filtrate in vacuo. Vacuum dry the residue at room temperature over 48 hours to afford 0.82 g of 2-methoxy-5-(2-methoxy-ethoxy)-benzoic acid as an oil, Rf=0.84 (silica gel, dichloromethane:methanol:acetic acid, 85:10:5).

reactant | 2-methoxy-5-(2-methoxy-ethoxy)-benzoic acid methyl ester | 3.6 mmol, 0.87 g | COC(C1=C(C=CC(=C1)OCCOC)OC)=O | C12H16O5
reactant | NaOH | 1N, 20 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 2-methoxy-5-(2-methoxy-ethoxy)-benzoic acid | 0.82 g | COC1=C(C(=O)O)C=C(C=C1)OCCOC | C11H14O5
